US04753960
(b) O-(4-fluoro-3-phenoxybenzyl)hydroxylamine hydrochloride
N-(4-fluoro-3-phenoxybenzyloxy)phthalimide 5 g, 14 mmol), n-butylamine (1.13 g, 15 mmol) and absolute ethanol (3 ml) were placed in a dry flask under a nitrogen atmosphere. This reaction mixture was stirred at 60°-75° for 1.5 hours, cooled and adjusted to pH 3 using dry hydrogen chloride gas. The solution was concentrated to 10 ml and poured into dry ether. The resulting white precipitate was filtered off and recrystallized from petroleum spirit (40°-60°)/dichloromethane to give 3.2 g (87%) of a white solid, m.p. 149.3°.

reactant | N-(4-fluoro-3-phenoxybenzyloxy)phthalimide | 14 mmol, 5 g | FC1=C(C=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1)OC1=CC=CC=C1 | C21H14FNO4
reactant | n-butylamine | 15 mmol, 1.13 g | C(CCC)N | C4H11N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | O-(4-fluoro-3-phenoxybenzyl)hydroxylamine hydrochloride | 3.2 g, 87% | Cl.FC1=C(C=C(CON)C=C1)OC1=CC=CC=C1 | InChI=1S/C13H12FNO2.ClH/c14-12-7-6-10(9-16-15)8-13(12)17-11-4-2-1-3-5-11;/h1-8H,9,15H2;1H
